US07176242B2
Methyl 3-[5-(3-methoxy-3-oxopropyl)-1,3-oxazol-2-yl]benzoate
Methyl 3-{[(5-methoxy-2,5-dioxopentyl)amino]carbonyl}benzoate (520 mg, 1.7 mmol) is dissolved in anhydrous tetrahydrofuran (4 mL), and (methoxycarbonylsulfamoyl)triethylammonium hydroxide, inner salt (810 mg, 3.4 mmol). The reaction is microwaved (100 W. 2 min) in a sealed vessel, cooled, filtered, and concentrated under reduced pressure. Purification by flash chromatography (silica gel, 40% ethyl acetate/hexanes) gives the title compound. ESI MS m/z 290.1 [M+H]+.

reactant | Methyl 3-{[(5-methoxy-2,5-dioxopentyl)amino]carbonyl}benzoate | 1.7 mmol, 520 mg | COC(CCC(CNC(=O)C=1C=C(C(=O)OC)C=CC1)=O)=O | C15H17NO6
reactant | (methoxycarbonylsulfamoyl)triethylammonium hydroxide | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | Methyl 3-[5-(3-methoxy-3-oxopropyl)-1,3-oxazol-2-yl]benzoate | COC(CCC1=CN=C(O1)C=1C=C(C(=O)OC)C=CC1)=O | C15H15NO5
